Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
chest pressure
 
Major Surgical or Invasive Procedure:
Cardiac cathetherization

 
History of Present Illness:
___ is a ___ yo female with a past medical history of 
CAD with a 1 vessel CABG (SVG to LAD) in ___ who presents with 
chest pressure.  She woke up at 8 am with substernal chest 
pressure.  It was severe initially.  She took SL NTG x3 with 
relief of CP for a short period of time.  The CP radiated to her 
right side and eventually down both arms.  She reports 
diaphoresis, but denied associated nausea, vomiting, 
lightheadedness or dizziness.  She reports that she has felt 
mildly SOB since her recent pneumonia (first diagnosed appox ___ 
weeks ago).  She denied worsening dyspnea.  Her cough has 
improved substantially and is very minimal at this time.  She 
went to her PCP's office and was found to have a new LBBB and 
anterior ST elevations.  She was transferred to the ED. She 
received Plavix 300mg, Aspirin, boluses of heparin and 
integrillin. Code STEMI was called and went to the cath lab.  
Cath showed occluded SVG, Native 3vd, occluded proximal LAD. 
Wiring the LAD was difficult and there was concern about a 
possible dissection. One BMS was placed in the proximal LAD. 
Distal LAD is diminutive past ___ septal and diag branches.   
She has been hemodynamically stable with HR 60-70s and SBP 
120-130s.  On the floor, she is currently chest pain free and 
feels well.
.   
.  
On review of systems, she denies any prior history of deep 
venous thrombosis, pulmonary embolism, bleeding at the time of 
surgery, myalgias, joint pains, cough, hemoptysis, black stools 
or red stools. She denies recent fevers, chills or rigors. All 
of the other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, + Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY:  
-CABG: Pt with MI in ___ and subsequent 1 vessel CABG SVG ->LAD
-PERCUTANEOUS CORONARY INTERVENTIONS:  none
-PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY:  
# CVA - small left posterior frontal infarct in ___ 
for which she is on ___ tab of plavix daily
# hypercholesterolemia.  
# small PFO.
# Macular Degereration
 
Social History:
___
Family History:
Her father died due to CAD at age ___.  Her mother had
stomach cancer and bone cancer.
 
Physical Exam:
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTA anteriorly, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. Femoral sheath in place in right groin.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
 
Pertinent Results:
EKG:  new LBBB with STE in V1 -V3 & V5 that in some leads are 
>5mm. 
TELEMETRY: NSR 75, few NSVTs.   
2D-ECHOCARDIOGRAM:  pending
ETT:  n/a
.  
CARDIAC CATH:  
LMCA: 40% distal
LAD: Occluded difficult to cross; was crossed and stented in 
proximal LAD.  Distal LAD diffuse diseased.  
LCX: occluded OM2, 50% LCX
RCA: Occluded
 
Brief Hospital Course:
___ is a ___ yo female with a history of CAD who 
presented with an STEMI s/p catheterization and was incidentally 
found to have multiple pulmonary nodules consistent with 
adenocarcinoma.  

#. STEMI: Pt presented with an anterior STEMI.  Her TIMI risk 
score was 7 indicating a 41% risk at 14 days of mortality, new 
or recurrent MI, or severe recurrent ischemia requiring urgent 
revascularization.  Her SVG found to be completely occluded and 
a BMS was placed in the proximal LAD.  Due to the timing of the 
SVG placement over ___ years ago, it was thought that her LAD had 
managed to self revascularize and was partially supplied by the 
RCA.  She was started on routine ACS medications: eptifibatide 
for 18 hrs, plavix 75 and aspirin 325mg, metoprolol, captopril, 
and atorvastatin.  Cardiac enzymes trended down appropriately 
with peak Ck and CKMB at 107 and 18.2.  There was concern for 
acute heart failure from ischemic insult oxygen requirement.  
However, she was noted to also have a RLL pneumonia and no 
significant pulmonary edema (see below).  ECHO showed moderate 
to severe regional left ventricular systolic dysfunction with 
anterior and anterospetal akinesis and inferior/inferolateral 
hypokinesis.  Initially, patient  was started on coumadin for 
ventricular thrombus prophylaxis, but this was subsequantly 
discontinued as risk of bleeding outweighed benefit. 

# Hypoxia:  Upon hospitalization, patient was maintaing 
saturations in low ___ on 6L from baseline 92% on RA.  CXR 
showed RLL pneumonia, and patient was subsequantly started on 
ceftriaxone, azithromycin, metronidazole.  As the patient had 
history recurrent RLL pneumonia, a CT scan was obtained which 
showed severe right lower lobe consolidation and extensive, new 
diffuse lung nodules with  sputum cytology positive for 
adenocarcinoma.  Hypoxia was initially felt to be a combination 
of postobstructive pneumonia and tumor burden from 
adenocarcinoma.  Antibiotics were changed to vancomycin, 
levofloxacin and flagyl of which she completed a 10 day course.  
Repeat CT scan showed little interval improvement in right lower 
lobe infiltrate.  Respiratory status remained tenuous, patient 
requiring high flow O2 with 6LNC with desaturations to high ___ 
with activity.  Prior to discharge O2 requirement was 5L by 
nasal cannula.  She was breathing comfortably with oxygen 
saturation in the low ___.  Likely this will continue to be 
necessary for some time.  A shovel mask may be used to assist 
with oxygenation as needed.     

# Lung nodules/ Broncheoalveolar carcinoma: CT scan with diffuse 
pulmonary nodules and sputum cytology positive for 
adenocarcinoma.  Etiology was felt to be primary 
bronchioalveolar vs metastatic thyroid dx (prior dx of possible 
microfollicular carcinoma) although routine cancer screening was 
not up-to-date.  A tissue diagnosis was not attained given the 
patient's high oxygen requirement and anticoagulation with 
plavix/asa in the setting of recent ___ placement.  Although 
patient did not have imaging of her head, staging based on CT 
torso was IIIa with pulmonary nodules in both lung fields 
without obvious distal LAD or metastasis.  Empiric therapy with 
single agent chemotherapy was initiated on ___ with 
Pemetrexed.  She tolerated this well.  She received 
dexamethasone on ___ to prevent rash.   

# Chronic renal insufficiency - Patient with GFR 48.  
Medications were renally dosed and renal function was carefully 
followed.  She was treated prophylactically with mucomyst prior 
to and post IV contrast dose.  Creatinine remained stable at 
___.  

# Hyperkalemia:  The patient was mildly hyperkalemic the day 
prior to discharge to 5.6 without EKG changes.   This responded 
promptly to kayexalate.  Electrolytes should be checked daily 
until stable.  If necessary ACEI could be stopped.

# HTN:  She was normotensive on ACEI and b-blocker.  

 
Medications on Admission:
# Clopidogrel [Plavix] 75 mg Tablet PO Daily
# Ezetimibe-Simvastatin [Vytorin ___ 10 mg-20 mg PO daily     
 
# Nifedipine 30 mg SR PO qday
# Nitroglycerin 0.4 mg/hour Patch 24 hr 1 patch once a day   
# Nitroglycern sublingual tabs PRN - has not used recently prior 
to today
# Propranolol 80 mg Tablet PO once a day          
# Multivitamin
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
ST elevation myocardial infarction
Presumed broncheoalveolar carcinoma

 
Discharge Condition:
stable, with 5L oxygen requirement and O2 Sat in the low ___

 
Discharge Instructions:
You were admitted to the hospital for chest pressure and found 
to have a heart attack.  You had a cardiac catheterization and 
had a bare metal stent placed.  After this, you had some trouble 
breathing and had a scan that showed some nodules in your lungs. 
 A sputum sample was sent and malignant cells were seen. This 
was thought to be broncheoalveolar lung cancer, and you were 
treated with one dose of chemotherapy for this.  Please 
follow-up with Dr. ___ to determine if further 
treatment will be needed.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

The following changes were made to your medications:
1. You were started on plavix, a medication to thin your blood. 
You must take this medication for 1 month to ensure that your 
heart stent does not become blocked.

 
Followup Instructions:
___